US07501438B2
Preparation of 2,2,2-trifluoro-1-(3-naphthalen-1-yl-imidazo[1,5-a]pyridin-1-yl)-ethanone
A solution of 3-naphthalen-1-yl-imidazo[1,5-a]pyridine (300 mg, 1.23 mmol) in DMF (10 mL) was cooled in an ice bath. To this mixture was added trifluoroacetic anhydride (0.22 mL, 1.60 mmol). The mixture was allowed to stir for 30 min. After this time an additional portion of trifluoroacetic anhydride (0.22 mL) was added and the mixture was stirred for an additional 30 min. After this time the mixture was poured into water (100 mL) and stirred for 30 min. The resulting precipitate was filtered and dried to yield the title compound (326 mg, 78%). 1H NMR (DMSO-d6) δ 8.41 (1H), 8.25 (2H), 8.12 (1H), 7.93 (1H), 7.76 (2H), 7.70 (1H), 7.64 (1H), 7.56 (1H), 7.21 (1H); m/z (M+H)=341.2.

reactant | 3-naphthalen-1-yl-imidazo[1,5-a]pyridine | 1.23 mmol, 300 mg | C1(=CC=CC2=CC=CC=C12)C1=NC=C2N1C=CC=C2 | C17H12N2
reactant | trifluoroacetic anhydride | 1.60 mmol, 0.22 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | trifluoroacetic anhydride | 0.22 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | 100 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2,2,2-trifluoro-1-(3-naphthalen-1-yl-imidazo[1,5-a]pyridin-1-yl)-ethanone | 326 mg, 78% | FC(C(=O)C=1N=C(N2C1C=CC=C2)C2=CC=CC1=CC=CC=C21)(F)F | C19H11F3N2O
